US08008295B2
Step B: 3-[(Dimethylamino)sulfonyl]-5-methoxy-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 3-(chlorosulfonyl)-5-methoxy-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with dimethylamine 2.0 M solution in tetrahydrofuran, and omitting triethylamine from the reaction mixture, the title compound was obtained. ESI+MS: 298.2 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 3-(chlorosulfonyl)-5-methoxy-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClS(=O)(=O)C1=C(N(C2=CC=C(C=C12)OC)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C18H16ClNO7S2
reactant | methylamine hydrochloride | Cl.CN
reactant | dimethylamine | 2.0 M | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-[(Dimethylamino)sulfonyl]-5-methoxy-1H-indole-2-carboxamide | CN(S(=O)(=O)C1=C(NC2=CC=C(C=C12)OC)C(=O)N)C | C12H15N3O4S
